US05476933
The procedure followed was that described by Behforouz et al., J. Org. Chem. 58:7089-7091 (1993). In a 50 mL round bottom flask, dry 4 Å molecular sieves (Fisher, 3.4 g) were added to dry CH2Cl2 (distilled from CaH2, 10 mL) and cooled to 5° C. with an ice bath. Methyl vinyl ketone (Aldrich, new bottle, used without purification, 0.725 mL, 0.618 g, 3.84 mmol) was added. A solution of O-(tert-butyldimethylsilyl)hydroxylamine (Aldrich, used without purification, 1.0 g, 6.80 mmol) in dry CH2Cl2 (distilled from CaH2, 3 mL) was added dropwise over a period of 5 min. The ice bath was removed and the mixture was stirred at rt under N2 for 18 h. The sieves were removed by filtration and the CH2Cl2 was evaporated to dryness (roto-vap). Column chromatography with silica gel and CHCl3 as eluent afforded 1-(tert-butyldimethylsilyloxy)-2-methyl-1-aza-1,3-butadiene as a light oil (1.2 g, 81%, interpretation of the 1H NMR showed a 1:1 anti/syn mixture): 1H NMR (CDCl3) δ (anti) 0.17 (s, 6H), 0.94 (s, 9H), 1.97 (s, 3H), 5.35-5.75 (m, 2H), 6.41-6.53 (m, 1H); (syn) 0.17 (s, 6H), 0.94 (s, 9H), 1.99 (s, 3H), 5.35-5.75 (m, 2H), 7.15-7.25 (m, 1H).

reactant | Methyl vinyl ketone | 3.84 mmol, 0.725 mL, 0.618 g | C(=C)C(=O)C | C4H6O
reactant | O-(tert-butyldimethylsilyl)hydroxylamine | 6.80 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)ON | C6H17NOSi
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butyldimethylsilyloxy)-2-methyl-1-aza-1,3-butadiene | [Si](C)(C)(C(C)(C)C)ON=C(C=C)C | C10H21NOSi
